US09108966B2
Lawesson's reagent (2.40 g, 6.0 mmol) was added to a solution of (2S,5R)-6-(benzyloxy)-N′-formyl-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carbohydrazide (1.6 g, 6.0 mmol) in THF (30 mL) at rt. The mixture was stirred at rt for 8 hrs., then the solvent was concentrated and the residue was purified by silica gel column chromatography (1:6 to 1:1 EtOAc/hexanes) to give (2S,5R)-6-(benzyloxy)-2-(1,3,4-thiadiazol-2-yl)-1,6-diaza-bicyclo[3.2.1]octan-7-one (568 mg, 30%) as a yellow solid. ESI-MS (EI+, m/z): 317.1 [M+H]+. 1H-NMR (400 MHz, CDCl3): δ 9.12 (s, 1H), 7.38-7.29 (m, 5H), 5.02 (d, J=8.8 Hz, 1H), 4.89-4.83 (m, 2H), 3.28 (m, 1H), 2.86-2.83 (m, 1H), 2.70-2.54 (m, J=2H), 2.29-2.24 (m, 1H), 2.17-2.13 (m, 1H), 2.07-1.79 (m, 1H).

reactant | Lawesson's reagent | 6.0 mmol, 2.40 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | (2S,5R)-6-(benzyloxy)-N′-formyl-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carbohydrazide | 6.0 mmol, 1.6 g | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)NNC=O | C15H18N4O4
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (2S,5R)-6-(benzyloxy)-2-(1,3,4-thiadiazol-2-yl)-1,6-diaza-bicyclo[3.2.1]octan-7-one | 568 mg, 30% | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C=2SC=NN2 | C15H16N4O2S
